US09340546B2
Pd2(dba)3 (33.70 mg, 0.03680 mmol) and Xantphos (42.58 mg, 0.07359 mmol) were added to a sealed tube containing tert-butyl N-(5-iodo-4-methoxy-2-pyridyl)-N-methyl-carbamate (268 mg, 0.7359 mmol), diphenylmethanimine (173.4 mg, 160.6 μL, 0.9567 mmol) and Cs2CO3 (719.4 mg, 2.208 mmol) in dioxane (2.5 mL). The reaction was placed under an atmosphere of nitrogen and heated at 100° C. for 4 hours. At RT, the reaction mixture was filtered through celite and the filtrate concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 40 g column, eluting with 0 to 30% EtOAc/Petroleum Ether, loaded in DCM) to give tert-butyl (5-((diphenylmethylene)amino)-4-methoxypyridin-2-yl)(methyl)carbamate as a yellow solid (213 mg, 69% Yield). MS (ES+) 418.2.

reactant | Xantphos | 0.07359 mmol, 42.58 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | tert-butyl N-(5-iodo-4-methoxy-2-pyridyl)-N-methyl-carbamate | 0.7359 mmol, 268 mg | IC=1C(=CC(=NC1)N(C(OC(C)(C)C)=O)C)OC | C12H17IN2O3
reactant | diphenylmethanimine | 0.9567 mmol, 160.6 μL, 173.4 mg | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | Cs2CO3 | 2.208 mmol, 719.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.03680 mmol, 33.70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl (5-((diphenylmethylene)amino)-4-methoxypyridin-2-yl)(methyl)carbamate | 213 mg, 69% Yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C(=CC(=NC1)N(C(OC(C)(C)C)=O)C)OC | C25H27N3O3
